### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Positive): add IsOrderedModule for (Continuous)LinearMaps

### PR DESCRIPTION
**Pull request by TJHeeringa**
This PR adds the instance `IsOrderedModule` and the pre-requisite `AddLeftMono` and `AddRightMono` for linear maps and continuous linear maps from an inner product space to itself.

---

#38584 has been split up into parts. This is one of these. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by themathqueen — COMMENTED** [review]
Can you move these next to the partial order instance?
Also, probably add them for `LinearMap` as well?

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 1]
```diff
@@ -184,6 +184,24 @@ instance : IsOrderedAddMonoid (E →ₗ[𝕜] E) where add_le_add_left a b hab c
 
 end PartialOrder
 
+section IsOrderedModule
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: I think it's fine if you combine these sections and call it `Order`?

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 2]
```diff
@@ -184,6 +184,24 @@ instance : IsOrderedAddMonoid (E →ₗ[𝕜] E) where add_le_add_left a b hab c
...
+
+instance : AddLeftMono (E →ₗ[𝕜] E) := by
+  refine ⟨fun f g₁ g₂ hg₁₂ => ?_⟩
+  simpa [LinearMap.le_def] using hg₁₂
+
+instance : AddRightMono (E →ₗ[𝕜] E) := by
+  refine ⟨fun f g₁ g₂ hg₁₂ => ?_⟩
+  simpa [LinearMap.le_def] using hg₁₂
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: there's already an `IsOrderedeAddMonoid` actually, so no need for these
```suggestion
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 3]
```diff
@@ -476,6 +494,25 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
 
+section IsOrderedModule
+
+instance : AddLeftMono (E →L[𝕜] E) := by
+  refine ⟨fun f g₁ g₂ hg₁₂ => ?_⟩
+  simpa [ContinuousLinearMap.le_def] using hg₁₂
+
+instance : AddRightMono (E →L[𝕜] E) := by
+  refine ⟨fun f g₁ g₂ hg₁₂ => ?_⟩
+  simpa [ContinuousLinearMap.le_def] using hg₁₂
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: Let's also add an `IsOrderedAddMonoid` here like the linear map version:
```suggestion
instance : IsOrderedAddMonoid (E →L[𝕜] E) where add_le_add_left a b hab c := by simpa [le_def]
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 4]
```diff
@@ -476,6 +494,25 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
+
+instance instIsOrderedModule : IsOrderedModule 𝕜 (E →L[𝕜] E) where
+  smul_le_smul_of_nonneg_left f hf b₁ b₂ hb := by
+    simpa [ContinuousLinearMap.le_def, ← smul_sub] using (sub_nonneg.mpr hb).smul_of_nonneg hf
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: you can use the linear map version instead of doing `sub_nonneg` and `smul_of_nonneg`, etc:

```suggestion
  smul_le_smul_of_nonneg_left f hf b₁ b₂ hb := by
    rw [← coe_le_coe_iff] at hb ⊢; exact smul_le_smul_of_nonneg_left hb hf
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 5]
```diff
@@ -476,6 +494,25 @@ lemma nonneg_iff_isPositive (f : E →L[𝕜] E) : 0 ≤ f ↔ f.IsPositive := b
...
+  smul_le_smul_of_nonneg_right f hf b₁ b₂ hb := by
+    simpa [ContinuousLinearMap.le_def, ← sub_smul] using hf.smul_of_nonneg (sub_nonneg.mpr hb)
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: same here:
```suggestion
    rw [← coe_le_coe_iff]; exact smul_le_smul_of_nonneg_right hb (by simpa)
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: since you're already editing this file, can you attribute this with `simp` and make `f` and `g` implicit?

Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: also here, let's make `f` implicit
```suggestion
lemma nonneg_iff_isPositive {f : E →L[𝕜] E} : 0 ≤ f ↔ f.IsPositive := by
```

Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: I'm reluctant to make `f` and `g` implicit here as well because it might break some stuff outside the file. I'm not sure.

Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: I am a little puzzled why `nonneg_iff_isPositive` and `le_def` should have implicit variables. There are not really any other propositions which lean can infer there type from, or is the proposition they are proven really sufficient for that?

Making `le_def` have implicit variables already breaks the proof of `nonneg_iff_isPositive`.

**Comment by TJHeeringa** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/Positive.lean
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: If you look at the other file that `nonneg_iff_isPositive` was used in, it was literally just `nonneg_iff_isPositive _` (both times). That's usually an indication that the variables don't really need to be explicit. They can be inferred whichever way you use it (forwards and backwards).
If a theorem has everything implicit, and you always need to do `(f := ..) (g := ..)` to use it, then that's usually an indication that these variables could be explicit.

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: > Making le_def have implicit variables already breaks the proof of nonneg_iff_isPositive.

True, in that case, you can just do `(f := ..) (g := ..)`. It's fine to do that, as long as it's not all the time.

Does that make sense?

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/Analysis/InnerProductSpace/Positive.lean
Comment (j-loreaux) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: I think these (`f` and `g`) should be implicit, and there will likely be some minimal breakage to fix outside this file. Please do that and then feel free to merge (after CI finished of course)

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 6]
```diff
@@ -175,10 +175,10 @@ instance instLoewnerPartialOrder : PartialOrder (E →ₗ[𝕜] E) where
     rw [← h₂.isSymmetric.coe_re_inner_apply_self, RCLike.ofReal_eq_zero]
     exact le_antisymm hba2 (h₂.2 _)
 
-lemma le_def (f g : E →ₗ[𝕜] E) : f ≤ g ↔ (g - f).IsPositive := Iff.rfl
+lemma le_def {f g : E →ₗ[𝕜] E} : f ≤ g ↔ (g - f).IsPositive := Iff.rfl
 
 lemma nonneg_iff_isPositive {f : E →ₗ[𝕜] E} : 0 ≤ f ↔ f.IsPositive := by
-  simpa using le_def 0 f
+  simpa using le_def (f:=0) (g:=f)
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean:181]: @TJHeeringa, it's not a big deal, but next time, please use spaces between `:=`, so it should've been: `(f := 0) (g := f)`
